US07402598B2
(iv) 4-(Benzyloxy)-7-(bromoacetyl)-1,3-benzothiazol-2(3H)-one
To a solution of 7-acetyl-4-(benzyloxy)-1,3-benzothiazol-2(3H)-one (68 mg) in dry THF (3 ml) under nitrogen, was added phenyltrimethylammonium tribromide (90 mg) and the mixture heated at 80° C. under nitrogen for 2 h. The mixture was diluted with water, extracted with ethyl acetate, dried (MgSO4), filtered and evaporated in vacuo. The residue was purified on a 5 g silica SPE cartridge, eluting with stepped gradient of 10% to 100% ethyl acetate-cyclohexane mixtures, to give the title compound (49 mg).

reactant | 7-acetyl-4-(benzyloxy)-1,3-benzothiazol-2(3H)-one | 68 mg | C(C)(=O)C1=CC=C(C=2NC(SC21)=O)OCC2=CC=CC=C2 | C16H13NO3S
reactant | phenyltrimethylammonium tribromide | 90 mg | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-(Benzyloxy)-7-(bromoacetyl)-1,3-benzothiazol-2(3H)-one | 49 mg | C(C1=CC=CC=C1)OC1=CC=C(C2=C1NC(S2)=O)C(CBr)=O | C16H12BrNO3S
